US04260816
Ethyl 4-[N-trifluoroacetyl-2-(4-acetyl-1-naphthyloxy)ethylamino]benzoate
To a solution of 5.4 g. of ethyl 4-[N-trifluoroacetyl-2-(1-naphthyloxy)ethylamino]benzoate and 5.7 g. of anhydrous aluminum chloride at 0° C. is added 1.1 g. of acetyl chloride with stirring. After 1 hour at 0° C., the solution is poured over 200 g. of ice plus 20 ml. concentrated hydrochloric acid. The organic phase is separated and the aqueous phase re-extracted. After washing with dilute acid, the methylene chloride extract is evaporated to dryness. The residue is crystallized from acetonitrile, m.p. 160°-161° C.

reactant | ethyl 4-[N-trifluoroacetyl-2-(1-naphthyloxy)ethylamino]benzoate | FC(C(=O)N(C1=CC=C(C(=O)OCC)C=C1)CCOC1=CC=CC2=CC=CC=C12)(F)F | C23H20F3NO4
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
product | Ethyl 4-[N-trifluoroacetyl-2-(4-acetyl-1-naphthyloxy)ethylamino]benzoate | FC(C(=O)N(C1=CC=C(C(=O)OCC)C=C1)CCOC1=CC=C(C2=CC=CC=C12)C(C)=O)(F)F | C25H22F3NO5
